US06413991B1
(S)-4-[2-Hydroxy-3-(2-[4-phenylsulfonamidophenyl]propylamino)propoxy]carbazole
A stirred mixture of (S)-4-(oxiranylmethoxy)-9H-carbazole (478.5 mg, 2.0 mmol), N-(4-[2-aminoethyl]phenyl) benzenesulfonamide (829.1 mg, 3.0 mmol), acetic acid (1 drop), and ethanol (50 mL) was heated at 45° C. for 16 h with a slow stream of nitrogen bubbling through the reaction mixture. The mixture was cooled and concentrated in vacuo to an amorphous solid. The solid was taken up in ethyl acetate (150 mL) and washed once with 1N HCl (20 mL) and twice with aqueous saturated sodium bicarbonate solution and finally with water. The organic layer was then dried over anhydrous magnesium sulfate, filtered, and concentrated to dryness. The resulting white amorphous product was purified by radial chromatography (Chromatatron) using EtOAc:MeOH (9:1). Concentration of the appropriate fractions and drying under vacuum gave 290 mg (29%) of the desired product as an amorphous white solid. Anal. Calcd. for C29H29N3O4S.0.5 mol H2O: C, 66.39; H, 5.76; N, 8.01. Found: C, 66.49; H, 5.81; N, 7.77.

reactant | (S)-4-(oxiranylmethoxy)-9H-carbazole | 2.0 mmol, 478.5 mg | O1[C@@H](C1)COC1=CC=CC=2NC3=CC=CC=C3C12 | C15H13NO2
reactant | N-(4-[2-aminoethyl]phenyl) benzenesulfonamide | 3.0 mmol, 829.1 mg | NCCC1=CC=C(C=C1)NS(=O)(=O)C1=CC=CC=C1 | C14H16N2O2S
reactant | ethanol | 50 mL | C(C)O | C2H6O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | (S)-4-[2-Hydroxy-3-(2-[4-phenylsulfonamidophenyl]propylamino)propoxy]carbazole | 290 mg, 29% | O[C@H](COC1=CC=CC=2NC3=CC=CC=C3C12)CNCC(C)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=CC=C1 | C30H31N3O4S
